US07034056B2
2-(3′-Cyano-biphenyl-4-yl)-N-(3,5-dichloro-phenyl)-4-methylamino-butyramide
A mixture of 2-(3′-cyano-biphenyl-4-yl)-N-(3,5-dichloro-phenyl)-4oxo-butyramide (300 mg, 0.71 mmol) and MeNH2 (2M in THF, 1.77 mL, 3.54 mmol, 5 eq) in 1,2-dichloroethane (3.5 mL) was stirred at r.t. for 1 h and then Na(AcO)3BH (299 mg, 1.4 mmol, 2 eq) was added. The reaction mixture was stirred at r.t. for 16 h. The mixture was then partitioned between EtOAc (20 mL) and 10% NaHCO3 (10 mL) and the organic phase separated. The organic phase was washed with 10% NaHCO3 (10 mL×2), saturated brine (10 mL), dried (Na2SO4), and concentrated. Chromatography on silica gel (Et3N/MeOH/CH2Cl2 1:10:90) gave 56.5 mg (18%) of the title compound as a yellowish gum. 1H NMR (300 MHz, CDCl3): δ 7.89 (m, 2H), 7.72 (m, 1H), 7.61 (m, 7H), 7.14 (t, 1H), 4.04 (dd, 1H), 2.85 (t, 2H), 2.59 (s, 3H), 2.50 (m, 1H), 2.16 (m, 1H). MS(ESI): 438.0 (M+1), 440.0 (M+3).

reactant | 2-(3′-cyano-biphenyl-4-yl)-N-(3,5-dichloro-phenyl)-4oxo-butyramide | 0.71 mmol, 300 mg | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)C(C(=O)NC1=CC(=CC(=C1)Cl)Cl)CC=O | C23H16Cl2N2O2
reactant | MeNH2 | 3.54 mmol, 2M, 1.77 mL, 5 eq | CN | CH5N
solvent | 1,2-dichloroethane | 3.5 mL | ClCCCl | C2H4Cl2
product | 2-(3′-Cyano-biphenyl-4-yl)-N-(3,5-dichloro-phenyl)-4-methylamino-butyramide | 56.5 mg, 18% | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)C(C(=O)NC1=CC(=CC(=C1)Cl)Cl)CCNC | C24H21Cl2N3O
